US06384080B1
To a solution of (S)-2-[1-(tert-butoxycarbonyl)ethylamino]-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide (104 mg) in dichloromethane (1.5 mL) was added trifluoroacetic acid (0.6 mL), and the mixture was stirred for 2 hour at ambient temperature. The resulting mixture was evaporated in vacuo and the residue was triturated with diethyl ether to give (S)-2-(1-carboxyethylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide (76 mg) as a solid substance.

reactant | (S)-2-[1-(tert-butoxycarbonyl)ethylamino]-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 104 mg | C(C)(C)(C)OC(=O)[C@H](C)NC1=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C=C(C=C1)[N+](=O)[O-] | C22H25N3O7
reactant | trifluoroacetic acid | 0.6 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | (S)-2-(1-carboxyethylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 76 mg | C(=O)(O)[C@H](C)NC1=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C=C(C=C1)[N+](=O)[O-] | C18H17N3O7
